US05847122
(2S,3S)-3-(2-Aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)-propionic acid methyl ester and aniline are treated in the same manner as in Reference Example 5 to give (2S,3S)-3-(2-aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)-N-phenylpropionamide.

reactant | (2S,3S)-3-(2-Aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)-propionic acid methyl ester | COC([C@@H]([C@H](C1=CC=C(C=C1)OC)SC1=C(C=CC=C1)N)O)=O | C17H19NO4S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | (2S,3S)-3-(2-aminophenylthio)-2-hydroxy-3-(4-methoxyphenyl)-N-phenylpropionamide | NC1=C(C=CC=C1)S[C@H]([C@H](C(=O)NC1=CC=CC=C1)O)C1=CC=C(C=C1)OC | C22H22N2O3S
